Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left facial swelling and pain
 
Major Surgical or Invasive Procedure:
___ Incision and drainage

 
History of Present Illness:
___ otherwise healthy female is transferred from ___ 
___ after presenting there with persistent left facial 
swelling and pain.  
 Her symptoms started on ___ when she noticed a red pimple 
that was near the bottom left corner of her left eye. She tried 
to pop the pimple but was unable to. The following day, the area 
started to become red, swollen, and painful. The symptoms 
progressed such that she went to the ___ on ___, 
and she was prescribed Bactrim for a presumed cellulitis. 
Despite taking the Bactrim, her symptoms progressed with more 
swelling and pain. She re-presented to ___ on ___. 
At that time, a CT was performed, which showed an area 
suggestive of a 4.1 x 1.3 cm fluid collection. Given a concern 
for rapidly expanding abscess, she was transferred to ___ for 
Plastic Surgery evaluation. Prior to transfer, she received 
vancomycin 1gm IV and Zosyn 3.375 gm IV.  
 In the ___ ___, initial vitals were: 98.8 97 150/92 20 98% RA. 
 
 Plastic Surgery was consulted and recommended a second read on 
OSH CT. They performed an I&D of the area and expressed around 
___ cc of pus. Fluids were sent for culture.  
 She was admitted to Medicine for further management of 
cellulitis.  
 Prior to transfer, vitals were: 98.2 79 139/87 18 100% RA.  
 On the floor, she reports feeling better in terms of pain after 
getting some ibuprofen in the ___. The swelling feels improved. 
Throughout this illness, she has not had any fevers, chills, 
visual changes, pain with eye movement, nasal congestion, cough, 
or headache.  
 
 
Past Medical History:
Possible prior diagnosis of rheumatoid arthritis
 
Social History:
___
Family History:
 No known family history of illnesses other than father with ear 
infections as a kid.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: T 98.9 BP 122/75 P 80 R 18 O2 100%RA  
GENERAL: Alert, oriented, no acute distress  
HEENT: Left periorbital region is significant swollen around the 
lateral aspect of the left eye and over the entire malar region 
with dry scaling over the erythema, which is demarcated with pen 
outline, EOMI, PERRL, sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No rashes  
NEURO: Grossly nonfocal  

DISCHARGE PHYSICAL EXAM:  
Vitals: 98.6 110-148/59-105 ___ 18 99-100%RA
GENERAL: Pleasant affect, alert and oriented x 3, sitting in 
chair 
HEENT: Left periorbital swelling and erythema now primarily at 
lateral margin inferior to left eye, significantly improving. 
Wick in place with serosanguinous fluid. EOMI.
NECK: supple, JVP not elevated  
LUNGS: Clear to auscultation bilaterally, no w/r/r.   
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, no rebound or guarding, 
normoactive bowel sounds. 
EXT: Warm, well perfused
SKIN: No rashes  
 
Pertinent Results:
ADMISSION LABS:

___ 06:36AM BLOOD WBC-7.2 RBC-3.75* Hgb-11.2 Hct-33.2* 
MCV-89 MCH-29.9 MCHC-33.7 RDW-11.9 RDWSD-38.5 Plt ___
___ 06:36AM BLOOD Glucose-90 UreaN-10 Creat-0.8 Na-134 
K-4.4 Cl-103 HCO3-24 AnGap-11
___ 06:36AM BLOOD Calcium-8.7 Phos-4.0 Mg-2.0

PERTINENT LABS:

___ 06:55AM BLOOD HIV Ab-Negative

DISCHARGE LABS:

None

STUDIES:

___ CT ORBITS (outside hospital, second read)
1. Preseptal cellulitis.  No organized fluid collection. 
2. Partially imaged heterogeneous parotid glands with enhancing 
soft tissue nodules on the left, findings raise possibility of 
lymphoepithelial lesions, which can be seen in the setting of 
Sjogren's syndrome or HIV.  Alternatively, these could represent 
abnormal lymph nodes or multicentric primary parotid lesions 
such as Warthin's.  Further evaluation with neck MRI is 
recommended.

___ CT ORBITS
1. Interval decrease in left preseptal edema, which may 
represent phlegmon. Foci of gas in this area are consistent with 
recent procedure. 
2. Redemonstration of heterogeneous parotid glands with 
enhancing soft tissue nodules on the left, concerning for 
lymphoepithelial lesions, abnormal lymph nodes, or multicentric 
a primary parotid lesions. 

MICROBIOLOGY:

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    HEAVY GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
 
Brief Hospital Course:
___ otherwise healthy female presents with left 
preseptal cellulitis.

# Preseptal cellulitis: Patient with preseptal cellulitis of 
left periorbital area. This had progressed on outpatient 
Bactrim. She had I&D of fluid collection with plastic surgery 
with cultures which grew MSSA. She was initially treated with IV 
vancomycin/unasyn and then transitioned to nafcillin after 
cultures resulted. She was transitioned to dicloxacillin for 
outpatient treatment to complete total 2 week course. She will 
continue packing wound bid at home and follow up with plastic 
surgery.

# Parotid nodules: On CT patient was incidentally found to have 
heterogeneous parotid glands with enhancing soft tissue nodules, 
findings suspicious for lymphoepithelial lesions concerning for 
Sjogren's versus HIV. Patient reported she had previously been 
told she may have Sjogren's or rheumatoid arthritis. HIV test 
was negative here. Recommend she follow up outpatient with 
dedicated MRI neck as well as with her rheumatologist to 
determine whether any further workup or treatment is indicated.

# TRANSTIIONAL ISSUES:
-CT with heterogeneous parotid glands with enhancing soft tissue 
nodules, findings suspicious for lymphoepithelial lesions, which 
can be seen in the setting of Sjogren's syndrome. Recommend MRI 
neck in next several weeks for dedicated evaluation.
-Recommend continued outpatient rheum follow up for above.
-Patient to continue PO dicloxacillin for total 2 week course.

 
Medications on Admission:
None
 
Discharge Medications:
1. Acetaminophen ___ mg PO Q8H:PRN pain 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*20 Tablet Refills:*0
2. Ibuprofen 600 mg PO Q8H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*20 Tablet Refills:*0
3. DiCLOXacillin 500 mg PO Q6H 
RX *dicloxacillin 500 mg 1 capsule(s) by mouth every six (6) 
hours Disp #*38 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Preseptal cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you had an infection 
of the soft tissue around your left eye. You had a CT scan to 
rule out involvement of the space around the eye itself. You had 
an incision and drainage procedure of a fluid collection with 
plastic surgery. You were started on IV antibiotics and 
transitioned to pills once we had identified a type of bacteria 
causing the infection.

CT imaging while you were here noticed some changes in your 
salivary glands that are sometimes seen in people with Sjogren's 
syndrome. We recommend you have an MRI of your neck within the 
next several weeks to evaluate this further. We also recommend 
you follow up again with your rheumatologist to determine 
whether you need any further workup or treatment.

You should change your wound packing twice daily and follow up 
with plastic surgery in 1 week, as well as with your PCP.

Very best wishes,

 Your ___ Team
 
Followup Instructions:
___